US06951879B2
According to the method in example 23, Methanesulfonic acid 4-[3-(4-chloro-phenyl)-benzo[d]isothiazol-6-yl]-butyl ester and Diethylamine were converted to yield {4-[3-(4-Chloro-phenyl)-benzo[d]isothiazol-6-yl]-butyl}-diethyl-amine, MS: 373 (MH+, 1Cl).

reactant | Methanesulfonic acid 4-[3-(4-chloro-phenyl)-benzo[d]isothiazol-6-yl]-butyl ester | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)CCCCOS(=O)(=O)C | C18H18ClNO3S2
reactant | Diethylamine | C(C)NCC | C4H11N
product | {4-[3-(4-Chloro-phenyl)-benzo[d]isothiazol-6-yl]-butyl}-diethyl-amine | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)CCCCN(CC)CC | C21H25ClN2S
